US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 30 mg, 0.070 mmol) was dissolved in DMF (1 mL) prior to the addition of 4-methylmorpholine (0.046 mL, 0.417 mmol), C-(1-methyl-1H-imidazol-2-yl)-methylamine dihydrochloride (13.91 mg, 0.125 mmol), and BOP (55.4 mg, 0.125 mmol). The reaction mixture was stirred overnight and then purified via preparative LCMS with the following conditions: Column: Waters XBridge C18, 19×250 mm, 5-μm particles; Guard Column: Waters XBridge C18, 19×10 mm, 5-μm particles; Mobile Phase A: 5:95 methanol:water with 10-mM ammonium acetate; Mobile Phase B: 95:5 methanol:water with 10-mM ammonium acetate; Gradient: 50-100% B over 25 minutes, then a 5-minute hold at 100% B; Flow rate=20 mL/min. Fractions containing the desired product were combined and dried via centrifugal evaporation to give (R/S)-2-hydroxy-N-((1-methyl-1H-imidazol-2-yl)methyl)-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (4.9 mg, 0.001 mmol, 13% yield): LCMS=525.1 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.10-8.24 (2 H, m), 7.70 (4 H, t, J=8.03 Hz), 7.52-7.64 (3 H, m), 7.00 (1 H, d, J=1.25 Hz), 6.88 (1 H, d, J=1.51 Hz), 5.18 (1 H, s), 4.40-4.58 (2 H, m), 3.60 (3 H, s); Analytical LCMS: column: Mac-mod Halo C18, 4.6×50 mm, 2.7-μm particles; Mobile Phase A: 5:95 acetonitrile:water with 0.05% TFA; Mobile Phase B: 90:10 acetonitrile:water with 0.05% TFA; Temperature: 45° C.; Gradient: 0-100% B over 4 minutes, flow rate=4 mL/min, product retention=2.0 min.

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.070 mmol, 30 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | 4-methylmorpholine | 0.417 mmol, 0.046 mL | CN1CCOCC1 | C5H11NO
reactant | C-(1-methyl-1H-imidazol-2-yl)-methylamine dihydrochloride | 0.125 mmol, 13.91 mg | Cl.Cl.CN1C(=NC=C1)CN
reactant | BOP | 0.125 mmol, 55.4 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-N-((1-methyl-1H-imidazol-2-yl)methyl)-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.001 mmol, 4.9 mg, 13% yield | OC(C(=O)NCC=1N(C=CN1)C)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C25H19F3N6O4
